US05840751
N-Benzyl-4-(3,6-dihydro-4-hydroxy-6-oxo-2-phenyl-2H-pyran-2-yl)-N-methylbutyramide (±)
The title compound was prepared as described in General Method 1 using 5.6 mmol of methyl acetoacetate, 6.1 mmol of NaH 60% dispersion in oil, 5.9 mmol of 1.6M n-butyl lithium in hexane, 5.6 mmol of 5-oxo-5-phenylpentanoic acid benzyl-methyl amide and 25 mL of tetrahydrofuran. The product was flash chromatographed using CH2 Cl2 /MeOH (98/2) to give a solid (m.p. 47°-51° C.). 1H NMR (DMSO-d6) δ 1.1-1.3 (m, 1 H), 1.4-1.6 (m, 1 H), 1.8-2.0 (m, 2 H), 2.2-2.4 (m, 2 H), 2.75/2.81 (s/s 3 H), 2.85-3.1 (m, 2 H), 4.4/4.5 (s/s, 2 H), 4.85/4.9 (s/s 1 H), 7.1-7.4 (m, 10 H), 11.36/11.38 (s/s, 1 H).

reactant | methyl acetoacetate | 5.6 mmol | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NaH | 6.1 mmol | [H-].[Na+]
reactant | n-butyl lithium | 5.9 mmol, 1.6M | C(CCC)[Li]
reactant | 5-oxo-5-phenylpentanoic acid benzyl-methyl amide | 5.6 mmol | C(C1=CC=CC=C1)N(C(CCCC(C1=CC=CC=C1)=O)=O)C | C19H21NO2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | N-Benzyl-4-(3,6-dihydro-4-hydroxy-6-oxo-2-phenyl-2H-pyran-2-yl)-N-methylbutyramide | C(C1=CC=CC=C1)N(C(CCCC1(OC(C=C(C1)O)=O)C1=CC=CC=C1)=O)C | C23H25NO4
